US09260441B2
Step A: 1-(4-Methyl-2-pyridyl)-4-methylsulfonyl-piperazine
To a cooled (0° C.) solution of 1-(4-methyl-2-pyridyl)piperazine (228 mg, 1.286 mmol) in DCM (10 ml) were added triethylamine (360 μl, 2.59 mmol) and methanesulfonyl chloride (105 μl, 2.59 mmol). The mixture was stirred at 0° C. for one hour, then a saturated solution of sodium bicarbonate was added, the layers were separated, the aqueous layer was extracted with DCM (2×), the organic layers were combined, dried (sodium sulfate) and concentrated under reduced pressure to yield 316 mg of a white solid (1.238 mmol, yield 96%) MS (ESI) m/z=256.1 [M+1]+.

reactant | 1-(4-methyl-2-pyridyl)piperazine | 1.286 mmol, 228 mg | CC1=CC(=NC=C1)N1CCNCC1 | C10H15N3
reactant | triethylamine | 2.59 mmol, 360 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.59 mmol, 105 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Methyl-2-pyridyl)-4-methylsulfonyl-piperazine | 1.238 mmol, 316 mg, yield 96% | CC1=CC(=NC=C1)N1CCN(CC1)S(=O)(=O)C | C11H17N3O2S
